US04362728
A mixture of 2-[2-(2,2,2-trifluoroethyl)-guanidino]-4-(4-aminobutyl)thiazole (0.45 g.) and 2-chloropyrimidine (0.18 g.) was heated under reflux in acetonitrile (5 ml.) for 16 hours. The reaction mixture was then evaporated to dryness and the residue purified by medium pressure liquid chromatography on silica gel using chloroform/methanol/ammonia 1900:100:5 v/v/v as eluant. The appropriate fraction was evaporated to dryness and the residue recrystallised from acetonitrile to give 2-(4-[2-(2-[2,2,2-trifluoroethyl]guanidino)-thiazol-4-yl]butylamino)pyrimidine (0.29 g.), m.p. 173°-175°.

reactant | 2-[2-(2,2,2-trifluoroethyl)-guanidino]-4-(4-aminobutyl)thiazole | 0.45 g | FC(CN=C(NC=1SC=C(N1)CCCCN)N)(F)F | C10H16F3N5S
reactant | 2-chloropyrimidine | 0.18 g | ClC1=NC=CC=N1 | C4H3ClN2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-(4-[2-(2-[2,2,2-trifluoroethyl]guanidino)-thiazol-4-yl]butylamino)pyrimidine | 0.29 g | FC(CN=C(NC=1SC=C(N1)CCCCNC1=NC=CC=N1)N)(F)F | C14H18F3N7S
